* OpenS Generated Netlist
.preprocess addresistors nodcpath 1G
.model POWER_NMOS NMOS (LEVEL=1 VTO=1 KP=0.5 LAMBDA=0.02 CGSO=100p CGDO=10p CBD=50p)
.model CONTROLLER npy MODULE=controller CLASS=Controller PYTHONPATH=/Users/rennekef/Documents/SchematicEntry/backup/tests/grid-tie/grid-tie-lib/inverter
C1 N_1 N_2 2u IC=0
M1 VL_D VL 0 0 POWER_NMOS L=1u W=10u m=1
M2 VR_D VR 0 0 POWER_NMOS L=1u W=10u m=1
N1 VIN N_3 N_4 N_5 N_6 N_7 N_8 0 N_9 N_10 N_11 N_12 VR VL N_13 VIN CONTROLLER
R1 VOUT 0 100
LP11 N_1 VIN 300u
LP21 VIN N_2 300u
LS1 VOUT 0 1m
K_1 LP11 LP21 LS1 0.99
V1 VIN 0 dc 30 ac 0
V2 N_2 VR_D dc 0 ac 0
V3 N_1 VL_D dc 0 ac 0
.tran 0.01n 50u
.print tran v(*) 
.end